US07612114B2
(R)-6-{2-{Ethyl{3-fluoro-4-[2-(4-methylpiperidin-1-yl)ethoxy]benzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (15 mg) and 2-chloro-1-(4-methylpiperidin-1-yl)ethanone (10 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (6.8 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 15 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC(=C(C=C1)O)F)=O | C31H34FNO5
reactant | 2-chloro-1-(4-methylpiperidin-1-yl)ethanone | 10 mg | ClCC(=O)N1CCC(CC1)C | C8H14ClNO
product | (R)-6-{2-{Ethyl{3-fluoro-4-[2-(4-methylpiperidin-1-yl)ethoxy]benzyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 6.8 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@H]1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)OCCN1CCC(CC1)C)F | C34H43FN2O3
